US07247646B2
H. 7-Hydroxy-6-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one
A solution of 7-methoxy-6-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one (50 mg, 0.093 mmol) in 1:1 48% HBr:AcOH (3 μL) was heated at 130° C. for 7 h. The mixture was cooled to room temperature and poured into AcOEt/1 M NaOH. The layers were separated and the organic phase was washed with H2O (2×) and brine and dried (MgSO4). The solvent was removed in vacuo. The residue was purified using reverse phase HPLC, followed by extraction with AcOEt/NaHCO3 to provide the desired compound as a yellow solid (25 mg, 52%). 1H NMR (300 MHz, CDCl3) δ 7.60 (d, J=8.0 Hz, 2H), 7.32 (d, J=8.0 Hz, 2H), 7.21 (d, J=0.75 Hz, 1H), 6.86 (d, J=8.8 Hz, 2H), 6.72 (s, 1H), 6.62 (d, J=8.8 Hz, 2H), 4.14 (t, J=5.5 Hz, 2H), 3.92 (s, 2H), 3.13 (t, J=5.5 Hz, 2H), 2.97–2.85 (br s, 4H), 2.13 (s, 3H), 2.00–1.89 (m, 4H); MS (ESI) m/z 523.9 (M)+; HPLC tR 5.07 min.

reactant | 7-methoxy-6-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 0.093 mmol, 50 mg | COC1=C(C=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1)C | C31H30F3NO4
reactant | HBr | Br | BrH
reactant | AcOH | 3 μL | CC(=O)O | C2H4O2
solvent | AcOEt | 1 M | CCOC(=O)C | C4H8O2
product | 7-Hydroxy-6-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 25 mg, 52% | OC1=C(C=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1)C | C30H28F3NO4
